US04022804
130 mg of zinc chloride, 3.2 g (20 mmoles) of methanesulfonic acid bromide and 0.15 ml of 50% strength hydrogen peroxide are successively added to a solution of 2.1 g (20 mmoles) of styrene in 5 ml of nitromethane. After 50 hours at room temperature, the mixture is taken up in methylene chloride and the solution is washed with water. The crude 1-methylsulfonyl-2-bromo-2-phenylethane which remains after stripping off the methylene chloride is dissolved in 10 ml of benzene and dehydrobrominated by adding 25 mmoles of triethylamine. Distillation at from 121° to 124° C. at 0.01 mm Hg gives β-methylsulfonylstyrene, of melting point 77° - 79° C. (after recrystallization from ether). According to the NMR spectrum (J = 15.5 Hz), the product is in the trans-configuration.

reactant | methanesulfonic acid bromide | 20 mmoles, 3.2 g | CS(=O)(=O)Br | CH3BrO2S
reactant | hydrogen peroxide | OO | H2O2
reactant | styrene | 20 mmoles, 2.1 g | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 25 mmoles | C(C)N(CC)CC | C6H15N
solvent | nitromethane | 5 ml | [N+](=O)([O-])C | CH3NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 130 mg | [Cl-].[Zn+2].[Cl-]
product | β-methylsulfonylstyrene | CS(=O)(=O)C=CC1=CC=CC=C1 | C9H10O2S
